US07834194B2
(3-Methyl-benzo[b]thiophen-2-yl)-methanol
Add a solution of methyl 3-methylbenzo[b]thiophen-2-carboxylate (5.00 g, 24.2 mmol) in THF (25 mL) dropwise to a 1M solution of lithium aluminum hydride in THF (121 mL, 121 mmol) at 0° C. Stir 1 hour. Add an excess of sodium sulfate decahydrate portionwise (slowly at first), stir for 30 minutes at 0° C., then 2 hours at room temperature. Filter, and wash the cake with THF. Concentrate the combined filtrates to afford the drawn product as a white solid (3.60 g, 83%): 1H NMR (CDCl3) δ 7.81 (m, 1H), 7.68 (m, 1H), 7.35 (m, 2H), 4.92 (d, 2H), 2.40 (s, 3H), 1.77 (t, 1H).

reactant | methyl 3-methylbenzo[b]thiophen-2-carboxylate | 24.2 mmol, 5.00 g | CC=1C2=C(SC1C(=O)OC)C=CC=C2 | C11H10O2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 121 mmol, 121 mL | C1CCOC1 | C4H8O
product | (3-Methyl-benzo[b]thiophen-2-yl)-methanol | 3.60 g, 83% | CC=1C2=C(SC1CO)C=CC=C2 | C10H10OS
